US04364952
2,6-Dimethyl-4-[1-(3-methoxyphenyl)-ethyl]-1,4-dihydropyridine-3,5-dicarboxylic acid dimethyl ester.
16.4 g of 2-(3-methoxyphenyl)-propionaldehyde, 23.2 g of methyl acetoacetate and 2.1 ml of NH3 (33% strength) in 50 cm3 of ethanol were heated under reflux for 4 hours. After the mixture had cooled, the product crystallised out. It was purified by recrystallisation from ethanol.

reactant | 2-(3-methoxyphenyl)-propionaldehyde | 16.4 g | COC=1C=C(C=CC1)C(C=O)C | C10H12O2
reactant | methyl acetoacetate | 23.2 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NH3 | 2.1 ml | N | H3N
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
product | 2,6-Dimethyl-4-[1-(3-methoxyphenyl)-ethyl]-1,4-dihydropyridine-3,5-dicarboxylic acid dimethyl ester | COC(=O)C1=C(NC(=C(C1C(C)C1=CC(=CC=C1)OC)C(=O)OC)C)C | C20H25NO5
